* D:\2024-25\Education\ELE713\Project\[03] Simulation\Forward.asc
R13 N021 0 200k
Rdelay N019 0 100k
Rosc N016 0 177k
Rt Vref N013 11k
Rs N014 0 10m tol=1 pwr=1
L1 N009 IN 190µ Rser=13m
L2 N007 FWD 30.4µ Rser=7m
L5 FWD OUT 10µ Rser=6.33m
C2 OUT COM 660µ Rser=17.67m
R7 OUT N029 200k
R8 N029 COM 27.2k
R1 N011 IN 240k
R2 0 N011 {240K/24}
V1 IN 0 36 AC 0
XU1 N017 FB N016 MP_01 N013 Vref N011 0 N021 N015 N015 N019 0 N012 Vu1 Sout LT1952-1
Rload OUT COM R={5/8}
L4 0 N004 120µ Rser=10m
L3 IN N001 190µ Rser=16m
Rb N013 0 12.4k
C3 Vref 0 0.1µ
C4 N013 0 0.22µ
XU2 N020 N025 CG VccBias FG COM N018 N024 LTC3900
Rtmr VccBias N018 90.9k
Ctmr N018 COM 0.47n
Rcs1 FWD N020 365
Rcs2 COM N020 360
Rcs3 COM N025 182
L6 0 N022 300µ Rser=13m
L7 N023 COM 300µ Rser=7m
C5 N022 Sout 220pF
R3 COM N024 200
M1 N007 FG COM COM HAT2266
M2 FWD CG COM COM HAT2266
R11 COM 0 99Meg
M3 N009 N012 N014 N014 NMOS
D1 P001 N006 MBR0540
C6 N006 COM 0.1µ
D2 COM N008 KDZ7_5B
Q1 N006 N008 N010 0 2SCR513P
C7 N010 COM 4.7µ
D3 0 N001 D
D4 N004 N003 BAS16HM
C8 Vreg 0 33µ
Q2 Vreg N005 Vu1 0 2SCR513P
R15 Vu1 IN 47k
R16 N005 IN 82k
D5 0 N005 UMZ13K
D6 0 Vu1 EDZV18B
C9 0 Vu1 100µF IC={-12.3}
XU4 VccBias COM N033 N029 N034 N028 LT4430
C1 N029 N034 10p
C10 N029 N032 4.7n
R4 N032 N034 8.2k
C11 COM VccBias 1µ
C12 N033 COM 33n
R6 N028 N027 464
R9 N031 FB 22k
R10 N017 FB 33k
R17 N031 0 1.2k
Q3 0 Vref N031 0 BC856B
C13 COM 0 2.2nF
R18 Vu1 N030 220
V2 Current 0 PULSE(8 0.8 6m 1u 1u 6m 12m)
C14 0 N015 4700p
V3 N002 0 PULSE(36 60 6m 1u 1u 6m 12m)
XU5 0 N026 Vreg LT1086-12
C15 Vreg 0 10µ
C16 N026 0 1µ
R20 N026 0 40
R5 N003 Vreg 0.5
R19 VccBias N010 0.1µ
R14 P001 FWD 2.2
R21 N014 N015 47
C17 Sout 0 100p
R22 N010 COM 4.7k
L9 N024 N023 50n
R12 N006 N008 1k
XU6 N027 COM N030 N031 NC_02 4N25
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1500m 0 1e-7 startup
K1 L1 L2 1
K2 L1 L3 1
K3 L1 L4 1
K4 L2 L3 1
K5 L2 L4 1
K6 L3 L4 1
K7 L6 L7 1
* L1 - Primer\nL2 - Seconder\nL3 - Aux\nL4 - Reset
.model HAT2266 VDMOS(Rg=0.5 Vto=2.3 Rd=4m Rs=1m Rb=5m Kp=70 lambda=.05 Cgdmax=0.65n Cgdmin=.08n Cgs=3.455n Cjo=1.2n Is=120p ksubthres=.1 mfg=Furkan Vds=60 Ron=12m Qg=25n)
.model NMOS VDMOS(Rg=3 Rd=1.2m Rs=.9m Vto=1.2 Kp=50 Cgdmax=2n Cgdmin=.25n Cgs=3.3n Cjo=1n Is=100p Rb=1.5m ksubthres=.1 mfg=Siliconix Vds=20 Ron=3m Qg=50n)
.lib 4N25.sub
.lib LT1083.lib
.lib LT1952-1.sub
.lib LT4430.sub
.lib LTC3900.sub
.backanno
.end
